US07384945B2
{4-[3-(4-Chloro-benzyl)-6-fluoro-2-phenoxymethyl-3H-benzoimidazol-5-yl]-piperazin-1-yl}-cyclopropyl-methanone
72 mg of 1-(4-chloro-benzyl)-5-fluoro-2-phenoxymethyl-6-piperazin-1-yl-1H-benzoimidazole (0.16 mmol) and 0.033 ml TEA (0.24 mmol) were dissolved in 1.5 ml dichloromethane and treated with 0.0145 ml cyclopropanecarbonyl chloride (0.2 mmol). After 1.5 h of stirring at rt, the reaction mixture was diluted with dichloromethane, washed with water, saturated sodium bicarbonate and brine, dried with magnesium sulfate, filtered and concentrated in vacuo, leading to 82 mg white solid (98%). MS (ISP) 519.3 (M+H)+.

reactant | 1-(4-chloro-benzyl)-5-fluoro-2-phenoxymethyl-6-piperazin-1-yl-1H-benzoimidazole | 0.16 mmol, 72 mg | ClC1=CC=C(CN2C(=NC3=C2C=C(C(=C3)F)N3CCNCC3)COC3=CC=CC=C3)C=C1 | C25H24ClFN4O
reactant | cyclopropanecarbonyl chloride | 0.2 mmol, 0.0145 ml | C1(CC1)C(=O)Cl | C4H5ClO
solvent | dichloromethane | 1.5 ml | ClCCl | CH2Cl2
product | {4-[3-(4-Chloro-benzyl)-6-fluoro-2-phenoxymethyl-3H-benzoimidazol-5-yl]-piperazin-1-yl}-cyclopropyl-methanone | ClC1=CC=C(CN2C(=NC3=C2C=C(C(=C3)F)N3CCN(CC3)C(=O)C3CC3)COC3=CC=CC=C3)C=C1 | C29H28ClFN4O2
